US07122679B2
5,7,8,9,10,11-Hexahydrocyclopent[a]pyrrolo[3,4-c]carbazole-5(6H)-one
Ethyl 4-Cyano-1,2,3,10-tetrahydrocyclopenta[a]carbazole-5-carboxylate (14 mg) in DMF (1.6 mL) was hydrogenated at 55 psi over W2 Raney nickel (150 mg) for 2.5 days. The catalyst was removed by filtration and the DMF was evaporated in vacuo to give the product (12 mg, 100% yield) as light brown crystals. A sample was recrystallized from DMF, boiled with ethanol, cooled, and filtered to give the product as an off-white solid, mp>300° C. NMR (DMSO-d6) δ 11.45 (s, 1H), 9.06 (d, 1H), 8.47 (s, 1H), 7.51 (d, 1H), 7.40 (t, 1H), 7.16 (t, 1H), 4.41 (s, 2H), 3.21 (t, 2H), 3.04 (t, 2H), 2.30 (quintet, 2H). Anal. Calcd for C17H14N2O: C, 77.84; H, 5.38; N, 10.68. Found: C, 77.40; H, 5.66; N, 10.49.

reactant | Ethyl 4-Cyano-1,2,3,10-tetrahydrocyclopenta[a]carbazole-5-carboxylate | 14 mg | C(#N)C1=C2C(=C3NC4=CC=CC=C4C3=C1C(=O)OCC)CCC2 | C19H16N2O2
reactant | DMF | 1.6 mL | CN(C)C=O | C3H7NO
catalyst | Raney nickel | 150 mg | [Ni] | Ni
product | 5,7,8,9,10,11-Hexahydrocyclopent[a]pyrrolo[3,4-c]carbazole-5(6H)-one | 12 mg, 100% yield | C1=NC=C2C=3C(=C4NC=5CCCCC5C4=C21)CC(C3)=O | C17H14N2O
